US05094938
The o-dodecanesulfonylbenzoic acid (30.0 g, 0.084 mol) was dissolved in 100 ml of methylene chloride, then 0.5 ml of N,N-dimethylformamide was added, and they were stirred at room temperature. Then 12 ml of oxalyl chloride was added dropwise over 15 min, and after the addition the reaction mixture was stirred for 1 hour. The reaction solution was concentrated, to obtain o-dodecanesulfonylbenzoyl chloride.

reactant | o-dodecanesulfonylbenzoic acid | 0.084 mol, 30.0 g | C(CCCCCCCCCCC)S(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C19H30O4S
reactant | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 12 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | o-dodecanesulfonylbenzoyl chloride | C(CCCCCCCCCCC)S(=O)(=O)C1=C(C(=O)Cl)C=CC=C1 | C19H29ClO3S
